US08865712B2
To a suspension of 2-amino-2-(6-bromo-pyridin-2-yl)-propionic acid (25.5 g, 72.8 mmol) and Boc2O (33.8 ml, 31.8 g, 145.7 mmol) in acetonitrile (300 ml) and methanol (150 ml) was added tetramethylammonium hydroxide (65.1 ml of a 25% aq. soln., 182 mmol). The reaction was allowed to stir at rt for 6.5 h and was filtered. The filtrates were washed with MeOH and CH3CN, then evaporated to leave an orange solid which was triturated with DCM and brine. The phases were separated and the aq. phase was 3× extracted with DCM. The combined org. phases were concentrated to leave crude 2-(6-bromo-pyridin-2-yl)-2-tert-butoxycarbonylamino-propionic acid as a pale brown foam (HPLC RtH4=0.96-0.97 min, ESIMS: 345, 347 [(M+H)+]).

reactant | 2-amino-2-(6-bromo-pyridin-2-yl)-propionic acid | 72.8 mmol, 25.5 g | NC(C(=O)O)(C)C1=NC(=CC=C1)Br | C8H9BrN2O2
reactant | Boc2O | 145.7 mmol, 33.8 ml, 31.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | methanol | 150 ml | CO | CH4O
product | 2-(6-bromo-pyridin-2-yl)-2-tert-butoxycarbonylamino-propionic acid | BrC1=CC=CC(=N1)C(C(=O)O)(C)NC(=O)OC(C)(C)C | C13H17BrN2O4
